US07247625B2
6-[(3,5-difluorophenyl)amino]-4,4-diethyl-1-methyl-1,4-dihydro-2H-3,1-benzoxazin-2-one
Prepared from 6-amino-4,4-diethyl-1-methyl-1,4-dihydro-2H-3,1-benzoxazin-2-one and 3,5-difluorophenylboronic acid according to the coupling procedure described in example 1. 1H NMR (DMSO-d6): δ 8.58 (s, 1H), 7.17 (dd, J=8.7, 2.5 Hz, 1H), 7.07 (d, J=8.7 Hz, 1H), 6.95 (d, J=2.3 Hz, 1H), 6.51 (s, 1H), 6.49 (m, 2H), 3.28 (s, 3H), 1.99 (m, 4H), 0.81 (t, J=7.4 Hz, 6H). MS (ESI) m/z 347 ([M+H]+); MS (ESI) m/z 345 ([M−H]−); Anal. calcd for C19H20F2N2O2: C, 65.88; H, 5.82; N, 8.09. Found: C, 64.99; H, 5.63; N, 7.89.

reactant | 6-amino-4,4-diethyl-1-methyl-1,4-dihydro-2H-3,1-benzoxazin-2-one | NC=1C=CC2=C(C(OC(N2C)=O)(CC)CC)C1 | C13H18N2O2
reactant | 3,5-difluorophenylboronic acid | FC=1C=C(C=C(C1)F)B(O)O | C6H5BF2O2
product | 6-[(3,5-difluorophenyl)amino]-4,4-diethyl-1-methyl-1,4-dihydro-2H-3,1-benzoxazin-2-one | FC=1C=C(C=C(C1)F)NC=1C=CC2=C(C(OC(N2C)=O)(CC)CC)C1 | C19H20F2N2O2
